Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][O:2][C:3]#[C:4],6.00787818968
[H:1][C:2][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7645388042400003
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:5]([H:6])([H:7])=[C:8][O:9][H:10].[H:1][C:2]#[C:3][O:4],0.590443912839
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:5],1.56372626635
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.83684927817
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10],5.4074666533
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],3.941088893380001
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.94044467218
[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7],1.94922903917
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.64592666475
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],6.939179233300001
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.0964182878300015
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.07169318197
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.14177576623
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:11]([H:12])([H:13])[H:14],5.12562991146
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2],2.76638703634
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-3.5870376382
[C:2](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:4]=[O:3]>>[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],3.4322129716000003
[H:7].[O:1]=[C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.8073267369700003
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2][H:3],3.64820518249
[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-4.09126408029
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],3.56753500141
[O:1]=[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:7]([H:8])([H:9])=[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6],-0.70993995534
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1],3.88856493551
[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.4904674997299998
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.89394490297
[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[O:1]=[C:2]([O:3][H:4])[C:5][C:9]([H:10])([H:11])[H:12],8.089154831110001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8][H:9],2.71530633618
